US08017611B2
A mixture of 1-bromopyrrolidine-2,5-dione (44.5 mg) and 2-(2-amino-3-pyridyl)-1,3-benzoxazole-7-carbonitrile (59 mg) in tetrahydrofuran (5 ml) was stirred at room temperature for 1 hour. The reaction was incomplete and further 1-bromopyrrolidine-2,5-dione (44.5 mg) was added at room temperature and the reaction mixture was stirred at room temperature for 1 hour. The resulting precipitate was collected by filtration, washed with acetonitrile (2×2 ml) and dried to a constant weight to afford 2-(2-amino-5-bromo-3-pyridyl)-1,3-benzoxazole-7-carbonitrile (70.0 mg) as a pale brown solid. NMR Spectrum: (DMSOd6) 7.61 (dd, 1H), 7.85 (bs, 2H), 7.96 (dd, 1H), 8.20 (dd, 1H), 8.37 (d, 1H), 8.39 (d, 1H); Mass spectrum: M(+CH3CN)+H+ 356-358.

reactant | 1-bromopyrrolidine-2,5-dione | 44.5 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(2-amino-3-pyridyl)-1,3-benzoxazole-7-carbonitrile | 59 mg | NC1=NC=CC=C1C=1OC2=C(N1)C=CC=C2C#N | C13H8N4O
reactant | 1-bromopyrrolidine-2,5-dione | 44.5 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(2-amino-5-bromo-3-pyridyl)-1,3-benzoxazole-7-carbonitrile | 70.0 mg | NC1=NC=C(C=C1C=1OC2=C(N1)C=CC=C2C#N)Br | C13H7BrN4O
